US04288386
Preparation of tris-(3,6-dioxaoctyl)-amine:
51.6 g (i.e., 0.215 mol) of tris-(2-chloroethyl)-amine hydrochloride were added to the above mixture (a). The mixture was subsequently heated at the reflux temperature of the 2-ethoxyethanol for 12 hours and the solvent was then distilled under reduced pressure. The excess sodium 2-ethoxyethanolate was neutralized by adding 12 cm3 of aqueous HCl (10 N) thereto. The sodium chloride was filtered off and the solution was distilled. The tris-(3,6-dioxaoctyl)-amine distilled between 200° C. and 210° C. under a pressure of 1 mm Hg. The yield was 68%.

reactant | tris-(2-chloroethyl)-amine hydrochloride | 0.215 mol, 51.6 g | Cl.ClCCN(CCCl)CCCl
reactant | 2-ethoxyethanol | C(C)OCCO | C4H10O2
product | tris-(3,6-dioxaoctyl)-amine | yield was 68% | C(COCCOCC)N(CCOCCOCC)CCOCCOCC | C18H39NO6
